US06506494B2
Preparation of Zinc (II) Imidazolate
A solution was prepared by adding 9.5 g of imidazole (0.14 mol) to 200 mL of water while stirring with a stir bar. Then 5.8 g of sodium hydroxide were added to the imidazole solution dropwise while stirring. After complete dissolution of the sodium hydroxide, the solution was added dropwise over a 15 minute period to a stirred aqueous solution of 20 g (0.07 mol) of zinc sulfate-hexahydrate in 1000 mL of water. Immediately a white precipitate formed. Stirring continued for 3 hours with heating to 80° C. Then the solution was cooled to room temperature. The product was collected in a Büchner funnel lined with a paper filter, and washed with 50 mL of water, 50 mL of methanol and finally with 50 mL of diethyl ether. The white solid was dried for 16 hours in an oven heated at 50° C.

reactant | imidazole | 0.14 mol, 9.5 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydroxide | 5.8 g | [OH-].[Na+]
reactant | zinc sulfate-hexahydrate | 0.07 mol, 20 g | O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Zn+2]
solvent | water | 1000 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | Zinc (II) Imidazolate | [N-]1C=NC=C1.[Zn+2].[N-]1C=NC=C1 | InChI=1S/2C3H3N2.Zn/c2*1-2-5-3-4-1;/h2*1-3H;/q2*-1;+2
